US08633200B2
Methyl 2-(3-chloro-7-hydroxy-2,5-di-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate
To a solution of 4-chloro-3-methyl-1H-pyrazol-5-amine (0.263 g, 2 mmol) and dimethyl 2-acetylsuccinate (1.3 g, 6 mmol) in xylene (50 mL) was added p-toluenesulfonic acid monohydrate (4 mg, 0.02 mmol). The reaction mixture was heated at reflux under a Dean-Stark trap for 2 hrs. The solid was filtered and washed by hexanes to afford (0.31 g, 58%) of the title compound. 1H-NMR (500 MHz, DMSO-d6) δ ppm 2.28 (s, 3H), 2.33 (s, 3H), 3.54 (s, 2H), 3.61 (s, 3H).

reactant | 4-chloro-3-methyl-1H-pyrazol-5-amine | 2 mmol, 0.263 g | ClC=1C(=NNC1N)C | C4H6ClN3
reactant | dimethyl 2-acetylsuccinate | 6 mmol, 1.3 g | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
solvent | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | p-toluenesulfonic acid monohydrate | 0.02 mmol, 4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Methyl 2-(3-chloro-7-hydroxy-2,5-di-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.31 g, 58% | ClC=1C(=NN2C1N=C(C(=C2O)CC(=O)OC)C)C | C11H12ClN3O3
